US05067967
Preparation of 1-amino-4-(2-hydroxyethylamino)-2-nitro-5-trifluoromethylbenzene
Ethylene oxide is passed in portions into a mixture of 2.2 g (10 mmol) of 1,4-diamino-2-nitro-5-trifluoromethylbenzene, 25 ml of water and 10 ml of monoethylene glycol dimethyl ether at 60° C. in the course of 20 minutes, and the reaction is monitored by thin layer chromatography. When the monohydroxyethylation is complete, the mixture is cooled slowly to room temperature and the precipitate is filtered off and washed with water.

reactant | Ethylene oxide | C1CO1 | C2H4O
reactant | 1,4-diamino-2-nitro-5-trifluoromethylbenzene | 10 mmol, 2.2 g | NC1=C(C=C(C(=C1)C(F)(F)F)N)[N+](=O)[O-] | C7H6F3N3O2
reactant | water | 25 ml | O | H2O
solvent | monoethylene glycol dimethyl ether | 10 ml | COCCOC | C4H10O2
product | 1-amino-4-(2-hydroxyethylamino)-2-nitro-5-trifluoromethylbenzene | NC1=C(C=C(C(=C1)C(F)(F)F)NCCO)[N+](=O)[O-] | C9H10F3N3O3
